US07064215B2
Synthesis of 1H-Indazole-3,4-dicarbaldehyde
The commercially available 1H-indole-4-carbaldehyde is reacted with NaNO2 in the presence of HCl and H2O in dioxane to produce the title pound.

reactant | 1H-indole-4-carbaldehyde | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | H2O | O | H2O
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 1H-Indazole-3,4-dicarbaldehyde | N1N=C(C=2C(=CC=CC12)C=O)C=O | C9H6N2O2
